US05998661
Preparation of Nitrocubane
Potassium monopersulfate (3.0 g), NaHCO3 (1.0 g), water (20 ml), and acetonitrile, (20 ml) were mixed together to form a first solution. A second solution of 1,4-diaminocubane hydrochloride in water, 100 mg in 25 ml, was slowly added to the first solution and the solution was cooled to 0 degrees C. Then, ozone was slowly bubbled through the solution. The reaction mixture turned milky white after one hour. The ozone was stopped and the mixture was stirred overnight. The reaction product was filtered and the filtrate was concentrated on a rotary evaporator. The concentrate was extracted twice with ethyl acetate (2×50 ml) and washed with aqueous HCl and then with brine. H NMR identified a 1,4-dinitrocubane product. Similar results are obtained when acetone is used in place of acetonitrile.

reactant | Potassium monopersulfate | 3.0 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | NaHCO3 | 1.0 g | C(=O)(O)[O-].[Na+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | 1,4-diaminocubane hydrochloride | Cl.NC12C3C4C5(C3C1C5C24)N
reactant | water | O | H2O
reactant | water | 20 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | Nitrocubane | [N+](=O)([O-])C12C3C4C5C3C1C5C24 | C8H7NO2
